US09290451B2
(S)-N-(2-Amino-2-oxo-1-phenylethyl)-5-cyclopropyl-6-(cyclopropylmethoxy)picolinamide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 42 a) and (αS)-α-amino-benzeneacetamide hydrochloride (1:1) (CAN 60079-51-8) as starting materials, LC-MS (UV peak area/ESI) 98%, 366.1814 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | (αS)-α-amino-benzeneacetamide hydrochloride | Cl.N[C@H](C(=O)N)C1=CC=CC=C1
product | (S)-N-(2-Amino-2-oxo-1-phenylethyl)-5-cyclopropyl-6-(cyclopropylmethoxy)picolinamide | NC([C@H](C1=CC=CC=C1)NC(C1=NC(=C(C=C1)C1CC1)OCC1CC1)=O)=O | C21H23N3O3
